US05326910
The acid fluoride, C3F7OCF(CF3)CF2OC(CF3)2COF, (4.51 g, 8.20 mmol) was reacted with ammonia (18.88 mmol) in vacuo at -78° C. for 10 minutes, then at -23° C. for 3 hours. The volatiles were removed at room temperature by pumping and the involatile residue was treated with dry Freon 113 (20 ml) and filtered in an inert atmosphere enclosure. The filtrate, after Freon 113 removal, gave 3.82 g (86% yeild) of C3F7OCF(CF3)CF2OC(CF3)2CONH2 which was characterized by mass spectrometry. MS(70 eV) m/e (intensity, ion): 526 (2.1%, M-F), 360 (29.4%, M-C3F7O), 260 (7.0%, CF2OC(CF3)2CONH2), 194 (17.2%, C(CF3), 169 (25.7%, C3F7), 69 (48.4%, CF3), 44 (100%, CONH2), 169 (25.7%, C3F7), 69 (48.4%, CF3), 44 (100%, CONH2).

reactant | C3F7OCF(CF3)CF2OC(CF3)2COF | 8.20 mmol, 4.51 g | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)(C(F)(F)F)C(F)(F)OC(C(F)(F)F)(C(F)(F)F)C(=O)F | C10F20O3
reactant | ammonia | 18.88 mmol | N | H3N
product | C3F7OCF(CF3)CF2OC(CF3)2CONH2 | 3.82 g, 86% | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)(C(F)(F)F)C(F)(F)OC(C(F)(F)F)(C(F)(F)F)C(=O)N | C10H2F19NO3
